US08877774B2
Step 7. 4-((3-(Phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)-methyl)benzoic acid
To a stirred solution of methyl 4-((3-(phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)benzoate (2.27 g, 4.50 mmol) in THF (23 mL), was added an aqueous solution of lithium hydroxide (2.0 M, 9.0 ml, 18.0 mmol). The mixture was stirred at room temperature for 16 hours. The pH of the reaction mixture was adjusted to 6 by the addition of 4M aqueous hydrochloric acid. The mixture was then extracted with 10% methanolic ethyl acetate (×2), and the combined organic extracts evaporated at reduced pressure. The residue was then dissolved in ethanol and re-evaporated at reduced pressure to afford the title compound (1.85 g, 84%).

reactant | methyl 4-((3-(phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)benzoate | 4.50 mmol, 2.27 g | C1(=CC=CC=C1)C(C=1C=C(OCC2=CC=C(C(=O)OC)C=C2)C=CC1)NC(=O)O[C@H]1CN2CCC1CC2 | C30H32N2O5
reactant | lithium hydroxide | 18.0 mmol, 2.0 M, 9.0 ml | [OH-].[Li+]
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | THF | 23 mL | C1CCOC1 | C4H8O
product | 4-((3-(Phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)-methyl)benzoic acid | 1.85 g, 84% | C1(=CC=CC=C1)C(C=1C=C(OCC2=CC=C(C(=O)O)C=C2)C=CC1)NC(=O)O[C@H]1CN2CCC1CC2 | C29H30N2O5
